US07645753B2
3-Ethoxy-5-hydroxymethyl-phenol
To a solution of 5-hydroxymethyl-benzene-1,3-diol (0.5 g, 3.57 mmol, 1.0 equiv) in DMF (5 mL) was added K2CO3 (0.99 g, 7.14 mmol, 2.0 equiv) and ethyl iodide (0.29 mL, 0.43 g, 3.93 mmol, 1.1 equiv) and the reaction mixture stirred under Ar at 60° C. for 4 h. The K2CO3 was removed by filtration, the filtrate extracted with ethyl acetate (3×50 mL), the combined organic phases washed with a sat. solution of sodium chloride (1×50 ml) and dried over Na2SO4. The solvent was removed by evaporation under reduced pressure and the crude material purified with column chromatography on silica eluting with a gradient of hexane/ethyl acetate (4:1→2:1) providing 0.25 g (42%) of the title compound. 1H NMR (250 MHz, CDCl3): δ 1.40 (t, J=7.0 Hz, 3H), 4.02 (q, J=7.0 Hz, 2H), 4.61 (d, J=5.6 Hz, 2H), 4.91 (br s, 1H), 6.29-6.31 (m, 1H), 6.43 (br s, 1H), 6.49 (br s, 1H). MS (EI): 168.0 [M]+.

reactant | 5-hydroxymethyl-benzene-1,3-diol | 3.57 mmol, 0.5 g, 1.0 equiv | OCC=1C=C(C=C(C1)O)O | C7H8O3
reactant | K2CO3 | 7.14 mmol, 0.99 g, 2.0 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl iodide | 3.93 mmol, 0.29 mL, 0.43 g, 1.1 equiv | C(C)I | C2H5I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-Ethoxy-5-hydroxymethyl-phenol | 0.25 g, 42% | C(C)OC=1C=C(C=C(C1)CO)O | C9H12O3
